US06660736B2
(S)-2-[5-(4-Fluoro-benzyloxy)-1,3-dioxo-1,3-dihydro-isoindol-2-yl]-thiopropionamide
A mixture of (S)-2-[5-(4-fluoro-benzyloxy)-1,3-dioxo-1,3-dihydro-isoindol-2-yl]-propionamide (171 mg, 0.5 mmol) and Lawesson's reagent (243 mg, 0.6 mmol) in tetrahydrofuran (20 mL) was stirrred at room temperature for 72 h. Then the mixture was evaporated and the residue was purified by chromatography (SiO2, CH2Cl2:2N NH3/MeOH 99:1 to 19:1) to afford the title compound (65 mg, 36%) as an off-white solid after recrystallisation from MeOH. MS: m/e=359.2 (M+H+).

reactant | (S)-2-[5-(4-fluoro-benzyloxy)-1,3-dioxo-1,3-dihydro-isoindol-2-yl]-propionamide | 0.5 mmol, 171 mg | FC1=CC=C(COC=2C=C3C(N(C(C3=CC2)=O)[C@H](C(=O)N)C)=O)C=C1 | C18H15FN2O4
reactant | Lawesson's reagent | 0.6 mmol, 243 mg | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | (S)-2-[5-(4-Fluoro-benzyloxy)-1,3-dioxo-1,3-dihydro-isoindol-2-yl]-thiopropionamide | 65 mg, 36% | FC1=CC=C(COC=2C=C3C(N(C(C3=CC2)=O)[C@H](C(=S)N)C)=O)C=C1 | C18H15FN2O3S
